Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left thyroid nodule with atypical features.

 
Major Surgical or Invasive Procedure:
Left thyroid lobectomy, followed by neck exploration,evacuation 
of hematoma.

 
History of Present Illness:
The patient presented with a long-standing left thyroid nodule.  
She had been advised to seek surgical therapy for this in the 
past, but had declined.  The FNA was AUS.  She agreed only to a 
left thyroidectomy understanding a completion may be required.
The patient has no mechanical symptoms from this problem such as 
pressure or difficulty swallowing, There is no history of 
exposure to low dose ionizing radiation such as was formerly 
used for thymic enlargment, acne, ringworm, or chronic 
tonsillitis. 

 
Past Medical History:
Hypertension, L thyroid nodule

 
Social History:
___
Family History:
There is no family
history of thyroid malignancy.
 
Physical Exam:
VS:98.2,62,116/70, 16, 100% room air
Gen: well appearing, NAD, clear phonation
HEENT:neck soft,staples c/d/i, no erythema/ecchymosis
Cardiac:regular rate rhythm ,S1 S2 normal
Pulmonary: clear, no stridor
Abdomen:soft,nontender, nondistended, normoactive bowel sounds
Ext: WWP, no CCE

 
Pertinent Results:
___ 05:00PM BLOOD Hct-36.7
 
Brief Hospital Course:
This is a ___ year old woman with history of left thyroid nodule, 
now status post left thyroidectomy followed by neck 
exploration,evacuation of hematoma. Reader referred to operative 
note for further details of surgery. Patient was transferred to 
___ and admitted overnight for observation. Her hospital course 
was stable.  
Neuro: Postoperatively patient had good pain control and once 
tolerating a diet she was transitioned to oral pain medication.
Cardiac: Patient remained stable from cardiac standpoint.
Pulmonary:Patient remained stable from pulmonary standpoint.Good 
pulmonary toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI/GU/FEN: Her diet was advanced when appropriate, which was 
well tolerated, and fluids were discontinued. Patient with 
urinary retention and foley catheter was placed and d/c on POD 
1. 
ID: Incisional wounds were regularly monitored for signs of 
infection of which there were none.No evidence of hematoma, 
cervical mass effect were noted.
Endocrine:Patient denied perioral numbness, Chvostek's sign or 
other clinical signs of hypocalcemia were noted. 
Prophylaxis: The patient wore venodyne boots during this 
admission and was encouraged to get up and ambulate as early as 
possible. 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
  

 
Medications on Admission:
Meds:Benzonatate 100mg q2h prn cough, Chlorthalidone 25mg'
 
Discharge Medications:
1. Chlorthalidone 25 mg PO DAILY 
2. Hydrocodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 

RX *hydrocodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
every four (4) hours Disp #*30 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID:PRN constipation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Left Thyroidectomy
2. Hematoma following left thyroid lobectomy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ overnight following your surgical 
procedure. You have adequate pain control and have tolerated a 
regular diet and may return home to continue your recovery. 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You will be given a prescription for 
narcotic pain medication, take as prescribed. It is recommended 
that you take a stool softener such as Colace while taking oral 
narcotic pain medication to prevent constipation. You may also 
take acetaminophen (Tylenol) as directed, but do not exceed 4000 
mg in one day. Please get plenty of rest, continue to walk 
several times per day, and drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower 72 HOURS after your surgery and 
wash incisions with a mild soap and warm water. Gently pat the 
area dry. NO swimming and baths until cleared by your surgeon. 
Gently pat the area dry. Please schedule a follow-up appointment 
with Dr. ___ next ___ for removal of 
your staples.
Thank you for allowing us to participate in your care.

 
Followup Instructions:
___